US05719182
h) 1RS,2RS,3RS)-3-(2-Carboxymethoxy-4-methoxyphenyl)-2-cyanomethyl-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane
1RS,2RS,3RS)-3-(2-Carbo-t-butoxymethoxy-4-methoxyphenyl)-2-cyanomethyl-1-(3,4-methylenedioxyphenyl)-5-propoxyindane (240 mg, 0.42 mmol) was stirred in methylene chloride (3 ml) with TFA (0.8 ml) under argon at room temperature for 1 h then partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O then brine, dried (Na2SO4) and solvent removed in vacuo to afford the product as an oil (190 mg, 88%).

reactant | 3-(2-Carbo-t-butoxymethoxy-4-methoxyphenyl)-2-cyanomethyl-1-(3,4-methylenedioxyphenyl)-5-propoxyindane | 0.42 mmol, 240 mg | C(=O)(OC(C)(C)C)COC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)CC#N | C34H37NO7
reactant | TFA | 0.8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Carboxymethoxy-4-methoxyphenyl)-2-cyanomethyl-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 190 mg, 88% | C(=O)(O)COC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)CC#N | C30H29NO7
